US04236002
About 0.5 mole of 4-hydroxybenzeneacetic acid is dissolved in about 50 ml of anhydrous tetrahydrofuran at -40° C. To this solution is added 3 equivalents of lithium diisopropylamide. The temperature is maintained at about -40° C. for about 15 minutes. Then 1 equivalent of ethyl chloroformate is added and the temperature is raised from about -40° C. to about 20° C. and the reaction mixture stirred for about 60 minutes. The reaction mixture is poured into water and the monoester of α-carboxy-4-hydroxybenzeneacetic acid is recovered from the aqueous solution. Hydrolysis of the half-ester with sodium hydroxide followed by acidification with hydrochloric acid gives α-carboxy-4-hydroxybenzeneacetic acid.

reactant | 4-hydroxybenzeneacetic acid | 0.5 mole | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | lithium diisopropylamide | 3 equivalents | C(C)(C)[N-]C(C)C.[Li+]
reactant | ethyl chloroformate | 1 equivalent | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | about 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | α-carboxy-4-hydroxybenzeneacetic acid | C(=O)(O)C(C(=O)O)C1=CC=C(C=C1)O | C9H8O5
